US06610707B1
Oxalyl chloride (5.00 ml) was added dropwise to a solution of dimethylformamide (4.43 ml) in acetonitrile (200 ml) at 0° C. The mixture was stirred for 20 mins. and a suspension of pyridine (9.66 ml) and 1-(1H-benzo[d]imidazol-2-ylsulfonyl-2-piperidinecarboxamide (14.73 g) [see Preparation 17] in acetonitrile (100 ml) was added over a period of 10 mins. The reaction mixture was stirred for a further 20 mins. after which time the solvent was removed under reduced pressure. The residue was diluted with diethyl ether and washed with water, brine, dried over magnesium sulphate and the solvent was removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with 70:30, by volume, hexane:ethyl acetate to afford 1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidinecarbonitrile (4.9 g).

reactant | Oxalyl chloride | 5.00 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 4.43 ml | CN(C=O)C | C3H7NO
reactant | pyridine | 9.66 ml | N1=CC=CC=C1 | C5H5N
reactant | 1H-benzo[d]imidazol-2-ylsulfonyl-2-piperidinecarboxamide | 14.73 g | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C(=O)N | C13H16N4O3S
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidinecarbonitrile | 4.9 g | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C#N | C13H14N4O2S
